* C:\Users\samow\Documents\D.I.Wireless\EmagsProj.asc
V1 N001 0 SINE(0 1 2k)
V2 0 N013 SINE(0 5 100k)
D1 N002 N003 1N5817
D2 N011 N007 1N5817
D3 N007 N002 1N5817
D4 N003 N011 1N5817
L1 Vin 0 1.24
L2 N002 0 330m
L5 N003 Vc 330m
L4 VO1 0 1.24
L3 0 N011 330m
L6 Vc N007 330m
R2 Vc N013 0.001
L7 NC_01 0 10µ
L8 NC_02 0 26µ
V4 0 N014 SINE(0 5 100k)
D5 N004 N005 1N5817
D6 N012 N008 1N5817
D7 N008 N004 1N5817
D8 N005 N012 1N5817
L9 Vin2 0 1.24
L10 N004 0 330m
L13 N005 Vc 330m
L12 VO2 0 1.24
L11 0 N012 330m
L14 Vc N008 330m
R3 Vin2 VO1 0.001
R4 Vc N014 0.001
R5 NC_03 NC_04 10k
R6 N010 NC_05 11
C1 N006 0 0.47µ
XU1 0 N009 Vcc Vnn N009 LM324
V3 Vcc 0 5
R7 N006 VO2 11
V5 Vnn 0 -5
R1 Vin N001 0.001
.model D D
.lib C:\Users\samow\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 L3 1
K2 L4 L5 L6 1
.tran 10m
K3 L7 L8 1
K4 L9 L10 L11 1
K5 L12 L13 L14 1
* 4
* 5
* 6
* 1
* 3
* 1
* 2
* 3
* 4
* 6
* 1
* 3
* 4
* 5
* 6
* 1
* 2
* 3
* 4
* 6
.include LM324.sub
.backanno
.end
