* C:\Users\samow\Documents\D.I.Wireless\LTSpice\EmagsProj.asc
V1 N001 0 SINE(0 0.5 500)
V2 N015 0 SINE(0 3 100k 2u)
D1 N002 N003 1N5817
D2 N013 N009 1N5817
D3 N009 N002 1N5817
D4 N003 N013 1N5817
L1 Vin 0 1.24
L2 N002 0 330m
L5 N003 Vc 330m
L4 VO1 0 1.24
L3 0 N013 330m
L6 Vc N009 330m
R2 Vc N015 50
L7 N004 0 10µ
L8 N005 0 26µ
V4 0 N016 SINE(0 3 100k 1u)
D5 N006 N007 1N5817
D6 N014 N010 1N5817
D7 N010 N006 1N5817
D8 N007 N014 1N5817
L9 Vin2 0 1.24
L10 N006 0 330m
L13 N007 Vc 330m
L12 VO2 0 1.24
L11 0 N014 330m
L14 Vc N010 330m
R3 Vin2 N005 0.001
R4 Vc N016 25
R6 N012 NC_01 11
C1 N008 0 0.47µ
XU1 0 N011 Vcc Vnn N011 LM324
V3 Vcc 0 5
R7 N008 VO2 50
V5 Vnn 0 -5
R1 Vin N001 25
R5 N004 VO1 0.001
.model D D
.lib C:\Users\samow\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 L3 1
K2 L4 L5 L6 1
.tran 10m
K3 L7 L8 1
K4 L9 L10 L11 1
K5 L12 L13 L14 1
* 4
* 5
* 6
* 1
* 3
* 1
* 2
* 3
* 4
* 6
* 1
* 3
* 4
* 5
* 6
* 1
* 2
* 3
* 4
* 6
.include LM324.sub
.backanno
.end
